US05837704
5,11-Dihydro-5-ethyl-11-methyl-2-(2-pyrrolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
A mixture of 2-chloro-5,11-dihydro-5-ethyl-11-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.21 g), (t-butoxycarbonyl)pyrrole (0.25 g), potassium acetate (0.20 g), Pd(PPh3)2Cl2 (0.030 g), and 1-methyl-2-pyrrolidinone (2.5 mL) were heated in a sealed tube at 140° C. for 14 h. After removing the solvent, water was added and the product was extracted with CH2Cl2, dried (anhyd Na2 SO4), filtered, and evaporated. The residue was chromatographed over silica gel (ethyl acetate/methylene chloride, 1:9) and was further purified by preparative plate chromatography (ethyl acetate/methylene chloride, 1:9) to give, after recrystallization from ethyl acetate/hexanes, 0.020 g of the title compound, mp 161°-162° C.

reactant | 2-chloro-5,11-dihydro-5-ethyl-11-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.21 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)C)N=CC=C3)=O)CC | C14H13ClN4O
reactant | (t-butoxycarbonyl)pyrrole | 0.25 g | C(C)(C)(C)OC(=O)C=1NC=CC1 | C9H13NO2
reactant | potassium acetate | 0.20 g | C(C)(=O)[O-].[K+]
catalyst | Pd(PPh3)2Cl2 | 0.030 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1-methyl-2-pyrrolidinone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
product | 5,11-Dihydro-5-ethyl-11-methyl-2-(2-pyrrolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C3=C(C1=O)C=CC=N3)C)N=C(C=C2)C=2NC=CC2 | C18H17N5O
